US04057416
A mixture of 4.9 g of 1-methyl-3-(4-carbamoyl-3-(methylthio)-5-isothiazolyl)urea and 20 ml of acetic acid was heated to 95° and to the hot mixture was added dropwise 2.2 ml of 30% hydrogen peroxide. The mixture became homogeneous, but solid began to appear again after a few minutes. The mixture was maintained at 95° for two hours and then 9 drops of 30% hydrogen peroxide were added. After heating was continued an additional hour, thin-layer chromatographic analysis indicated that the reaction was completed. The mixture was cooled to -5°; the solid was isolated, washed with cold water and dried to give 4.7 g of 1-methyl-3-(4-carbamoyl-3-(methylsulfinyl)-5-isothiazolyl)urea; m.p. above 355°. The nmr spectrum was consistent with the assigned structure.

reactant | 1-methyl-3-(4-carbamoyl-3-(methylthio)-5-isothiazolyl)urea | 4.9 g | CNC(=O)NC1=C(C(=NS1)SC)C(N)=O | C7H10N4O2S2
reactant | hydrogen peroxide | 2.2 ml | OO | H2O2
catalyst | hydrogen peroxide | 9 drops | OO | H2O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-methyl-3-(4-carbamoyl-3-(methylsulfinyl)-5-isothiazolyl)urea | 4.7 g | CNC(=O)NC1=C(C(=NS1)S(=O)C)C(N)=O | C7H10N4O3S2
